US20010041799A1
The poorly soluble N-[[l -[4-(methylsulfonyl)butyl]cyclopentyl]thioxomethyl]-4-nitro-L-phenylalanine methyl ester (19.3 mmol, 9.07 g) was dissolved in methanol (150 mL) and THF (20 mL) by gentle heating with a heat gun. To this solution, zinc dust (˜325 mesh, 193 mmol, 12.62 g, 10 equiv.) and ammonium chloride (289.5 mmol, 15.5 g, 15 equiv.) were added followed by water (75 mL) at room temperature. After the addition of water, an exothermic reaction ensued and the temperature rose to 45 to 50° C. The suspension was stirred for 1 h, at which time TLC analysis of the mixture indicated the absence of starting material. The reaction mixture was filtered and the filter cake was washed with methanol (200 mL) and THF (100 mL). The volatiles were removed under vacuum and the organic residue was extracted into ethyl acetate (2×200 mL). The combined extracts were washed brine (250 mL) then were dried (MgSO4), filtered and evaporated to dryness to give 8.37 g (98%) of 4-amino-N-[[1-[4-(methylsulfonyl)butyl]cyclopentyl]thioxomethyl)-L-phenylalanine methyl ester as a colorless gum which was used directly for next step. HRMS: Obs. mass, 441.1884. Calcd. mass, 441.1882 (M+H).

reactant | N-[[l -[4-(methylsulfonyl)butyl]cyclopentyl]thioxomethyl]-4-nitro-L-phenylalanine methyl ester | 19.3 mmol, 9.07 g | COC([C@@H](NC(=S)C1(CCCC1)CCCCS(=O)(=O)C)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C21H30N2O6S2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | ammonium chloride | 289.5 mmol, 15.5 g, 15 equiv. | [Cl-].[NH4+]
reactant | water | 75 mL | O | H2O
solvent | methanol | 150 mL | CO | CH4O
catalyst | zinc | 193 mmol, 12.62 g, 10 equiv. | [Zn] | Zn
product | 4-amino-N-[[1-[4-(methylsulfonyl)butyl]cyclopentyl]thioxomethyl)-L-phenylalanine methyl ester | 8.37 g, 98% | COC([C@@H](NC(=S)C1(CCCC1)CCCCS(=O)(=O)C)CC1=CC=C(C=C1)N)=O | C21H32N2O4S2
